US06511978B1
1-2) Preparation of ethyl 4-(naphthalen-1-yl)-1H-pyrrole-3-carboxylate
5 g(18.9 mmol) of the compound prepared in Preparation 1-1) and 3.68 g(18.9 mmol) of tosylmethylisocyanide were dissolved in 100 ml of tetrahydrofuran. 2.55 g(22.7 mmol) of potassium t-butoxide dissolved in 100 ml of tetrahydrofuran was slowly added thereto and the resulting mixture was refluxed for 30 minutes. 100 ml of water was added to the reaction solution to stop the reaction and the solvent was removed under reduced pressure. The residue was extracted with diethylether, washed with saturated sodium chloride solution and dried over magnesium sulfate. Then, the solvent was removed under reduced pressure and the residue was subjected to column chromatography(eluent: ethylacetate/n-hexane=⅓, v/v) to give 3.85 g(14.5 mmol, Yield 77%) of the title compound.

reactant | tosylmethylisocyanide | 18.9 mmol, 3.68 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium t-butoxide | 22.7 mmol, 2.55 g | CC(C)([O-])C.[K+]
reactant | water | 100 ml | O | H2O
reactant | ethylacetate n-hexane | C(C)OC(C)=O.CCCCCC
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 4-(naphthalen-1-yl)-1H-pyrrole-3-carboxylate | 14.5 mmol, 3.85 g, Yield 77% | C1(=CC=CC2=CC=CC=C12)C=1C(=CNC1)C(=O)OCC | C17H15NO2
